US07001905B2
To a suspension of 7,8-difluoro-1-(4-iodo-2-methyl-phenyl)-4-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazine-6-carboxylic acid methylamide in THF (10 mL) is added polymer bound glycerol, (0.33 g, 200–400 mesh) and 10 mL of 1.0 M HCl solution. After stirring for 48 hours at room temperature, the resin is filtered off and the filtrate is transferred to a separatory funnel and partitioned with ethyl acetate. The organics are washed twice with 1.0 M HCl, twice with saturated brine solution, collected, dried over Na2SO4, filtered and concentrated in vacuo affording 4,5-difluoro-6-(-4-iodo-2-methyl-phenylamino)-N-methyl-isophthalamic acid (0.11 g, 76.2%); mp 254–259° C.; 1H NMR (400 MHz; DMSO-d6) 9.31 (s, 1H), 8.19 (s, 1H), 8.07 (d, 1H, J=7.2), 7.56 (s, 1H), 6.69 (t, 1H, J=5.6), 2.74 (d, 3H, J=4.4), 2.20 (s, 3H); MS (APCI)m+1=447; Anal.calcd/found for C16H13F2IN2O3, C 43.07/43.26, H 2.94/3.07. N 6.28/6.10.

reactant | 7,8-difluoro-1-(4-iodo-2-methyl-phenyl)-4-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazine-6-carboxylic acid methylamide | CNC(=O)C1=CC2=C(N(COC2=O)C2=C(C=C(C=C2)I)C)C(=C1F)F | C17H13F2IN2O3
reactant | glycerol | OCC(O)CO | C3H8O3
reactant | HCl | 1.0 M, 10 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4,5-difluoro-6-(-4-iodo-2-methyl-phenylamino)-N-methyl-isophthalamic acid | 0.11 g, 76.2% | FC1=C(C=C(C(=O)O)C(=C1F)NC1=C(C=C(C=C1)I)C)C(=O)NC | C16H13F2IN2O3
